US06329370B1
Benzyl-{3-[1-(3,5-dichloro-pyridin-4-ylmethyl)6-methoxy-phthalazin-5-yl]-allyl}-methyl-amine (Compound 82)
A solution of benzyl-{3-[1-(3,5-dichloro-pyridin-4-ylmethyl)-6-methoxy-phthalazin-5-yl]-prop-2-ynyl}-methyl-amine (0.17 g, 0.36 mmoles), prepared as described in example 74, in THF (5 ml) and 10% Pd/C (0.07 g) was charged in a Parr apparatus at 2.7 atmospheres for 1.5 hours. The mixture was filtered over celite and dried to give an oil which was flash chromatographed (eluent: CH2Cl2/CH3OH/NH3 98:2:0.2, then 98:2:0.5). The resultant oil was crystallised from isopropyl ether to give 0.105 g of the title compound (yield: 61%).

reactant | benzyl-{3-[1-(3,5-dichloro-pyridin-4-ylmethyl)-6-methoxy-phthalazin-5-yl]-prop-2-ynyl}-methyl-amine | 0.36 mmoles, 0.17 g | C(C1=CC=CC=C1)N(C)CC#CC1=C2C=NN=C(C2=CC=C1OC)CC1=C(C=NC=C1Cl)Cl | C26H22Cl2N4O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
catalyst | Pd/C | 0.07 g | [Pd] | Pd
product | Benzyl-{3-[1-(3,5-dichloro-pyridin-4-ylmethyl)6-methoxy-phthalazin-5-yl]-allyl}-methyl-amine | 0.105 g, yield: 61% | C(C1=CC=CC=C1)N(C)CC=CC1=C2C=NN=C(C2=CC=C1OC)CC1=C(C=NC=C1Cl)Cl | C26H24Cl2N4O
